US05223506
Using the procedure of Example 1, 5,6-dimethoxymethoxyindan-1-one (504 mg, 2 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (508 mg, 2 mmol) to yields 7,8-dimethoxymethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline (307 mg, 40% of theory).

reactant | 5,6-dimethoxymethoxyindan-1-one | 2 mmol, 504 mg | COCOC=1C=C2CCC(C2=CC1OCOC)=O | C13H16O5
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 2 mmol, 508 mg | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 7,8-dimethoxymethoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | 307 mg, 40% | COCOC=1C(=CC=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C1)OCOC | C21H19NO6
